US08431738B2
Under ice cooling, 18.7 g of N-Boc-L-serine was dissolved in 200 ml of DMF and 13.25 g of solid K2CO3 was added and suspended for 15 minutes, and then 41.6 g (3.2 eq) of Mel was added, followed by stirring for 24 hours. After the reaction, the reaction solution was filtered through celite and concentrated. The residue was extracted by liquid separation using 400 ml of water and 150 ml×4 of ethyl acetate and dried over sodium sulfate. The ethyl acetate layer was concentrated and subjected to silica gel column chromatography to obtain 17.1 g (87.4%) of an N-Boc-L-serine methyl ester as a transparent oily product.

reactant | N-Boc-L-serine | 18.7 g | C(=O)(OC(C)(C)C)N[C@@H](CO)C(=O)O | C8H15NO5
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | N-Boc-L-serine methyl ester | 17.1 g, 87.4% | COC([C@@H](NC(=O)OC(C)(C)C)CO)=O | C9H17NO5
